US06172057B2
4-(4-Methoxy-benzenesulfonyl)1-(4-methoxy-benzyl)-piperidine-4-carboxylic acid was prepared starting from 4-(4-Methoxy-benzenesulfonyl)-1-(4-methoxy-benzyl)piperidine-4-carboxylic acid ethyl ester (4.2 g, 10 mmol) dissolve in methanol (30 mL), 10 N sodium hydroxide (10 mL), tetrahydrohydrofuran (20 mL). The resulting reaction mixture was worked up as outlined in example 83. Yield 3.0 g (71%). white solid mp 190° C. , MS: 420.4 (M+H)+.

reactant | 4-(4-Methoxy-benzenesulfonyl)-1-(4-methoxy-benzyl)piperidine-4-carboxylic acid ethyl ester | 10 mmol, 4.2 g | C(C)OC(=O)C1(CCN(CC1)CC1=CC=C(C=C1)OC)S(=O)(=O)C1=CC=C(C=C1)OC | C23H29NO6S
reactant | sodium hydroxide | 10 N, 10 mL | [OH-].[Na+]
solvent | methanol | 30 mL | CO | CH4O
product | 4-(4-Methoxy-benzenesulfonyl)1-(4-methoxy-benzyl)-piperidine-4-carboxylic acid | COC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)CC1=CC=C(C=C1)OC)C(=O)O | C21H25NO6S
